US07560558B2
Compound 11: 1-{2-[(6,7-Dimethoxy-4-quinolyl)oxy]-5-methoxyphenyl}-1-propanol
Under an argon atmosphere, 2-[(6,7-dimethoxy-4-quinolyl)oxy]-5-methoxybenzaldehyde (140 mg) was dissolved in tetrahydrofuran (2 ml), and the solution was then cooled to −78° C. A 0.96 M tetrahydrofuran solution (0.7 ml) of ethylmagnesium bromide was added dropwise thereto, and the mixture was stirred at −78° C. for one hr. A saturated aqueous ammonium chloride solution was added to the reaction solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was then washed with saturated brine and was dried over anhydrous magnesium sulfate. The solvent was removed therefrom by distillation under the reduced pressure, and the residue was purified by thin layer chromatography using acetone-hexane to give the title compound (74.5 mg, yield 49%).

reactant | 2-[(6,7-dimethoxy-4-quinolyl)oxy]-5-methoxybenzaldehyde | 140 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=O)C=C(C=C1)OC | C19H17NO5
reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.96 M, 0.7 ml | O1CCCC1 | C4H8O
product | 1-{2-[(6,7-Dimethoxy-4-quinolyl)oxy]-5-methoxyphenyl}-1-propanol | 74.5 mg, yield 49% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1)OC)C(CC)O | C21H23NO5
